### PR TITLE
working on realizability

### PR DESCRIPTION
**Pull request by HuStmpHrrr**
c.f. #136 #121

### CODE REVIEW

File: theories/Core/Soundness/LogicalRelation/Definitions.v [hunk 1]
```diff
@@ -73,6 +73,7 @@ Inductive pi_glu_typ_pred i
   (OP : forall c (equiv_c : {{ Dom c ≈ c ∈ IR }}), glu_typ_pred) : glu_typ_pred :=
 | mk_pi_glu_typ_pred :
     `{ {{ Γ ⊢ M ≈ Π IT OT : Type@i }} ->
+       {{ Γ ⊢ IT : Type@i }} ->
```
Comment (Ailrun) [inline theories/Core/Soundness/LogicalRelation/Definitions.v:76]: Why do we need these (the well-formednesses of `IT` and `OT`)? They are derivable from a presupposition of the previous assumption, i.e. the well-formedness of Pi type. Do we need these for some induction-related reason?

Comment (HuStmpHrrr) [reply theories/Core/Soundness/LogicalRelation/Definitions.v:76]: They can be derived but it's a bit annoying to not have them. Extracting them all the time from the logical relations sounds repetitive. They are almost always needed when given as premises. For conclusion, I think we can provide a simplified constructor as always.

Comment (HuStmpHrrr) [reply theories/Core/Soundness/LogicalRelation/Definitions.v:76]: In fact, adding this premise doesn't change the proofs of the lemmas at all. I think automation just crushes it. It's a pure gain.

**Comment by HuStmpHrrr** [comment]
This PR is good.

File: theories/Core/Syntactic/SystemOpt.v [hunk 2]
```diff
@@ -285,3 +285,96 @@ Qed.
...
+    {{ Γ ⊢ ℕ[σ] ≈ ℕ : Type@i }}.
+Proof.
+  intros.
+  eapply wf_exp_eq_subtyp with (A := {{{ Type@0 }}}).
+  - mauto 3.
+  - gen_presups.
+    eapply wf_subtyping_ge;
+      eauto.
+    lia.
+Qed.
```
Comment (Ailrun) [inline theories/Core/Syntactic/SystemOpt.v:301]:
```suggestion
Proof.
  intros.
  assert (0 <= i) by lia.
  mauto.
Qed.
```
is enough

Comment (Ailrun) [reply theories/Core/Syntactic/SystemOpt.v:301]: (You may be even able to replace `mauto` with `mauto 4` or so)

File: theories/Core/Syntactic/SystemOpt.v [hunk 3]
```diff
@@ -285,3 +285,96 @@ Qed.
...
+Lemma wf_subtyping_subst : forall Δ A B,
+    {{ Δ ⊢ A ⊆ B }} ->
+    forall Γ σ,
+      {{ Γ ⊢s σ : Δ }} ->
+      {{ Γ ⊢ A [σ] ⊆ B[σ] }}.
+Proof.
+  intros; mauto 2 using wf_subtyping_subst_eq.
+Qed.
+#[export]
+ Hint Resolve wf_subtyping_subst_eq wf_subtyping_subst : mcltt.
```
[the remark this answers is not in the document]
Comment (HuStmpHrrr) [reply theories/Core/Syntactic/SystemOpt.v]: ok moved over
